Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Intracranial Hemorrhage
 
Major Surgical or Invasive Procedure:
None.  Evaluated by neurosurgery, surgery not recommended.
 
History of Present Illness:
The patient reports being in good health until 1.5 weeks ago.  
At that time he was working out at he ___, straining to bench 
press 350 lbs.  After he finished he felt unwell, went home and 
rested.  He felt very sleepy and was having some sweats that 
night.  Everytime he attempted to get up to stand, he felt off 
balance.  He did fall several times, leaning to the right- he 
denies any head injuries with these falls.  He has had headaches 
since the event, the exact start of which is unclear.  The 
headache is mostly posterior, top of this neck and temples.  It 
is constant, mild (___) throbbing with a pressure-like 
sensation in his eyes.  He feels his vision has been impaired as 
he has difficulty focusing to reading signs when driving.  He 
also reports episodes of things "dancing" in his vision, like 
the keys on his keyboard or the spedometer gage on his car.  He 
denies blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denied 
difficulties producing or comprehending speech.  Denied focal 
weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or retention. 
 
On general review of systems, the patient denied recent fever or 
chills.  He had sweats at the onset of his symptoms. He denies 
recent weight loss or gain. He has no cough, shortness of 
breath.  Denied chest pain or tightness, palpitations.  Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain.  No 
recent change in bowel or bladder habits.  No dysuria.  Denied 
arthralgias or myalgias. Denied rash.

 
Past Medical History:
Hypertension 
Shingles as a child
Bells palsy (right) ___
Migraines- history of intense, right sided headaches with
throbbing which would last for 1 week at a time if no
intervention was made. Has not had a migraine in years. Was on
Periactin.
s/p bilateral knee surgery.

 
Social History:
___
Family History:
Father- morbid obesity, died at in his ___ of heart disease, 
HTN
Mother- ___, had hypertension and kidney failure
2 siblings without health problems 

 
Physical Exam:
T 98.7 BP 142/85 HR 64 RR 14 100% O2
General: Awake, cooperative, NAD.
Head and Neck: no cranial abnormalities, no scleral icterus
noted, mmm, no lesions noted in oropharynx, supple, no carotid
bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs clear to auscultation bilaterally  
Cardiac: regular rate and rhythm, normal s1/s2. No murmurs,
appreciated.
Abdomen: soft, non-tender, normoactive bowel sounds, no masses 
or
organomegaly noted. 
Extremities: 2+ radial, DP pulses bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive.  Language is fluent with intact
repetition and comprehension.  Normal prosody.  There were mild
paraphasic errors while reading.  Pt. was able to name both high
and low frequency objects (unable to name hammock).  Speech was
not dysarthric. The pt. had good knowledge of current events.  
He
used his hand as object when testing for apraxia.  He had visual
and tactile neglect on the left when given simultaneous stimuli. 

Calculations intact. Registered ___ and recalled ___ at 5
minutes, ___ with prompting.
 
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk.  Visual fields full on bedside
testing with red pin. Funduscopic exam revealed no papilledema,
exudates, or hemorrhages.  
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: Moderate right facial droop, mild ptosis with occasional
blepharospasm and perioral twitching. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and sternocleidomastoid 
bilaterally.

XII: Tongue with ? rightward deviation.
 
-Motor: Normal bulk, tone throughout. left pronator drift. No
rigidity. No adventitious movements, such as tremors, noted. No
asterixis. 
 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5    5     5    5 
R  5    ___   ___  5   5    5  5    5     5    5 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. Extinction to double
simultaneous stimuli on the left. Bilateral agraphesthesia, no
stereo-agnosia.
 
-Deep tendon reflexes: 
    Bi Tri ___ Pat Ach 
L   1   1    1    0   0 
R   1   1    1    1   0 
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Narrow-based, normal stride and arm 
swing
but swayed to right. Romberg positive.

 
Pertinent Results:
CT/CTA: Large right frontotemporoparietal hemorrhage (4.4 x 2.4
cm) with surrounding edema, subfalcine herniation with left 
shift
of normally midline structures by 10 mm. Compression of right
lateral ventricle, evidence of early uncal herniation. CTA: No
aneurysm. Note detector malfunction occurred on CT console,
causing artifact on series 3, image 278-302. Final pending
reformats. Recommend contrast enhanced brain MR when patient
stabilized as part of workup for underlying mass.

Echo: The left atrium is mildly dilated. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
70%). There is no ventricular septal defect. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. There is no pericardial effusion. 

Brain MR: PRELIMINARY REPORT:
 
IMPRESSION: Right temporal/parietal hematoma with adjacent mass 
effect, 
similar to the recent CT, without definite underlying mass. 
Continued follow up is suggested to exclude an underlying mass. 
  

Labs:
___ 09:00PM   ___ PTT-28.1 ___
___ 09:00PM   WBC-10.8 RBC-4.89 HGB-14.3 HCT-41.0 MCV-84 
MCH-29.1 MCHC-34.7 RDW-13.1
___ 09:00PM   NEUTS-63.0 ___ MONOS-4.5 EOS-2.8 
BASOS-0.5
___ 09:00PM   GLUCOSE-98 UREA N-11 CREAT-1.1 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-26 ANION GAP-15
___ 04:25AM   ___
___ 04:25AM   WBC-10.2 RBC-4.78 HGB-14.1 HCT-40.0 MCV-84 
MCH-29.4 MCHC-35.1* RDW-13.3
___ 04:25AM   PLT COUNT-310
___ 04:25AM   TRIGLYCER-96 HDL CHOL-39 CHOL/HDL-3.2 
LDL(CALC)-68
___ 04:25AM   %HbA1c-5.8 eAG-120
___ 04:25AM   CALCIUM-8.9 PHOSPHATE-3.6 MAGNESIUM-2.2 
CHOLEST-126
___ 04:25AM   CK-MB-2 cTropnT-<0.01
___ 01:04PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of hypertension
and migraines who presented to ___ today with
headache and visual changes for nearly 10 days.  CT scan has
identified a large right frontotemporalparietal hemorrhage with
significant edema and 10mm midline shift.  There is compression
of the right lateral ventricle and evidence of subfalcine and
early uncal herniation.  Remarkably, his initial exam was 
notable only for
an old right facial droop (hx of bells palsy), left pronator
drift, bilateral agraphesthesia, and left sided neglect to
simultaneous visual and tactile stimuli.  He was unsteady when
standing and leans to his right.  The cause of the bleed is
unclear.  The patient reported weight lifting prior to the onset
of symptoms and it is possible this was a hypertensive event, 
also since his verapamil had been self-discontinued.  

Mr. ___ was admitted to the neuro ICU, under the stroke 
attending, Dr. ___.  He was ruled out for a myocardial 
infarction.  He had a lipid profile which showed LDL 68, HDL 39, 
and HbA1C which was 5.8.  He was followed by neurosurgery.  He 
had a cardiac echo which showed no evidence of atrial septal 
defect or patent foramen ovale.  

Head/Neck CT/CTA showed:
 1. Right temporoparietal intraparenchymal hemorrhage with 
surrounding edema.  
Mass effect as described above. 
2. Normal CT angiography of the neck. 
3. CT angiography of the head demonstrates vascular 
displacement, but no 
evidence of aneurysm or abnormal vascular structures. No 
evidence of dural 
sinus thrombosis. 

Brain MRI/MRA showed stable hemorrhage and no clear evidence of 
underlying mass, though this inconclusive as a mass could be 
masked by blood.  Therefore, it is recommended that the brain 
MRI be repeated in 6 weeks time.

 
Medications on Admission:
(Verapamil:  was not taking)
 
Discharge Medications:
1. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
2. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).
Disp:*30 Tablet Sustained Release(s)* Refills:*2*
3. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Right temporoparietal intraparenchymal hemorrhage with 
surrounding edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after you were found to have a 
bleeding in your brain.  You were re-started on your blood 
pressure medication, Verapamil.  You had an echocardiogram of 
your heart which was normal.  The cause of your brain bleed is 
not entirely clear.  It may have been the result of high blood 
pressure. Your MRI did not show evidence of an underlying mass, 
but blood can mask this.  Therefore, we would like to repeat the 
MRI in 6 weeks. Please follow up with Dr. ___ as directed 
below after you have this MRI.

You may take tylenol for your headache.  For severe headache or 
breakthrough pain, you may take oxycodone.  However, if you 
continue to have severe headache, worsening pain, or vomiting, 
please go to the nearest emergency room for evaluation.
 
Followup Instructions:
___